US05716954
A solution of 2-(3-chlorobenzoyl)-3-methoxycarbonylpyridine (0.55 g, 2.0 mmoles), hydrazine hydrate (0.15 ml, 3.0 mmoles) in ethanol (50 ml) was stirred at 100° C. for 18 hours under an inert atmosphere. The solution was cooled and solid in the solution was collected, washed with ethyl ether and dried to give 0.26 g of 8-(3-chlorophenyl)pyrido-[2,3-d]pyridazin-5-one (50.5%), mp 268°-269° C.

reactant | 2-(3-chlorobenzoyl)-3-methoxycarbonylpyridine | 2.0 mmoles, 0.55 g | ClC=1C=C(C(=O)C2=NC=CC=C2C(=O)OC)C=CC1 | C14H10ClNO3
reactant | hydrazine hydrate | 3.0 mmoles, 0.15 ml | O.NN
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 8-(3-chlorophenyl)pyrido-[2,3-d]pyridazin-5-one | 0.26 g, 50.5% | ClC=1C=C(C=CC1)C1=NNC(C2=C1N=CC=C2)=O | C13H8ClN3O
